US07579469B2
A mixture of 1-{4-[3-(cyclopropylhydroxymethyl)phenyl]-2-hydroxy-4-methyl-2-trifluoromethylpentyl}-1H-quinolin-4-one (26 mg, 0.057 mmol) and MnO2 (5 mg, 0.57 mmol) in methylene chloride (2 mL) was stirred for 48 hours at room temperature under an atmosphere of argon and filtered over CELITE® filter aid. The filtrate was concentrated in vacuo and the residue purified by reversed phase HPLC to afford 1-[4-(3-cyclopropanecarbonylphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one. Yield: 9 mg (35%).

reactant | 1-{4-[3-(cyclopropylhydroxymethyl)phenyl]-2-hydroxy-4-methyl-2-trifluoromethylpentyl}-1H-quinolin-4-one | 0.057 mmol, 26 mg | C1(CC1)C(C=1C=C(C=CC1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)O | C26H28F3NO3
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 0.57 mmol, 5 mg | O=[Mn]=O
product | 1-[4-(3-cyclopropanecarbonylphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | C1(CC1)C(=O)C=1C=C(C=CC1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C | C26H26F3NO3
